US04650810
(ii) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1Hindole-5-acetonitrile
A mixture of 4-hydrazino phenylacetonitrile hydrochloride (3.15 g) and 4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butanal diethyl acetal (4.95 g) in acetic acid (25%, 150 ml) was refluxed for 2 h, cooled to 25°, precipitate filtered, washed with water (2×20 ml) and ether (100 ml). The crude product was obtained as a dark solid (4.5 g) which was triturated with ethyl acetate to give the title compound (3.16 g) m.p. 185°-186°.

reactant | 4-hydrazino phenylacetonitrile hydrochloride | 3.15 g | Cl.N(N)C1=CC=C(C=C1)CC#N
reactant | 4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butanal diethyl acetal | 4.95 g | C(C)OC(CCCN1C(C2=CC=CC=C2C1=O)=O)OCC | C16H21NO4
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1Hindole-5-acetonitrile | 4.5 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC#N | C20H15N3O2
